US06528525B1
(c) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-trifluoromethoxyphenoxy)propionate
In a similar manner to that described in Reference example 25, a reaction was carried out using ethyl 3-(4-hydroxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate (2.93 g), t-butyl 2-methanesulfonyloxyethylcarbamate (4.73 g) and potassium carbonate (5.46 g) and the reaction mixture was treated to afford the title compound (2.28 g) as a colorless oil.

reactant | ethyl 3-(4-hydroxyphenyl)-2-(4-trifluoromethoxyphenoxy)propionate | 2.93 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)OC(F)(F)F | C18H17F3O5
reactant | t-butyl 2-methanesulfonyloxyethylcarbamate | 4.73 g | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
reactant | potassium carbonate | 5.46 g | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-trifluoromethoxyphenoxy)propionate | 2.28 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)OC(F)(F)F | C25H30F3NO7
